US07541372B2
2-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 2-picolinic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=60:20:20 to 0:80:20, 43 mg, 15%) which was obtained as an off-white solid. MS: m/e=305.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2-picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
product | 2-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 43 mg, 15% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=NC=CC=C1 | C17H12N4O2
